US05763463
Preparation of N-(3-chloro-2-ethylpyridin-4-yl)-4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetamide (Intermediate No. 12)
2.97 g (10.0 mmol) of 4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetic acid was dissolved in 20 ml of dichloromethane, and the solution was cooled to a temperature of from -10° to 0° C. Then, 2.30 g (12.0 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added thereto, and the mixture was stirred at a temperature of from -10° to 0° C. 30 minutes later, 1.57 g (10.0 mmol) of 4-amino-3-chloro-2-ethylpyridine was added thereto, and the mixture was gradually returned to room temperature with stirring and further stirred for 16 hours at room temperature. Then, 10 ml of dichloromethane was added to the reaction solution. The organic layer was washed with water and then dried over anhydrous magnesium sulfate. Then, dichloromethane was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (developing solvent: n-hexane/ethyl acetate) to obtain 1.14 g of the desired product as colorless cotton-like crystals (melting point: 124.5° to 125° C.).

reactant | 4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetic acid | 10.0 mmol, 2.97 g | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)CC(=O)O)(F)F | C14H10F3NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 12.0 mmol, 2.30 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-amino-3-chloro-2-ethylpyridine | 10.0 mmol, 1.57 g | NC1=C(C(=NC=C1)CC)Cl | C7H9ClN2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3-chloro-2-ethylpyridin-4-yl)-4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetamide | 1.14 g | ClC=1C(=NC=CC1NC(CC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O)CC | C21H17ClF3N3O2
